US04238505
A solution of 50.0 g (0.28 mole) of 3-bromofluorobenzene in 100 ml of diethyl ether was added dropwise with stirring to a cooled reaction vessel containing 7.0 g (0.29 mole) of freshly dried magnesium turnings. The reaction began after 10-20% of the 3-bromofluorobenzene-ether solution had been added. The remainder of the addition was done at a rate sufficient to promote gentle reflux. Upon complete addition an additional 210 ml of diethyl ether was added and the reaction mixture was heated under reflux for 1 hour. The reaction mixture was cooled to 5° C. and 32.5 g (0.29 mole) of 3-methylcyclohexanone in 100 ml of diethyl ether was added dropwise during 30 minutes. Upon complete addition the reaction mixture was stirred for 1 hour at 5° C., heated to reflux temperature for 30 minutes, then allowed to cool to ambient temperature and stand for 16 hours. The reaction mixture was slurried in 450 ml of water and made acidic with aqueous 10% hydrochloric acid. The two phases were separated and the aqueous phase was extracted with three portions of diethyl ether. The combined ether extracts and organic phase were washed with two portions of a saturated aqueous solution of sodium bicarbonate, then one portion of water. The organic layer was dried with sodium sulfate, filtered, and the filtrate concentrated under reduced pressure to give 58.0 g of 1-(3-fluorophenyl)-3-methyl-1-cyclohexanol as a solid. The compound was used without further purification.

reactant | 3-bromofluorobenzene | 0.28 mole, 50.0 g | BrC=1C=C(C=CC1)F | C6H4BrF
reactant | magnesium | [Mg] | Mg
reactant | 3-methylcyclohexanone | 0.29 mole, 32.5 g | CC1CC(CCC1)=O | C7H12O
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | water | 450 ml | O | H2O
solvent | diethyl ether | 210 ml | C(C)OCC | C4H10O
product | 1-(3-fluorophenyl)-3-methyl-1-cyclohexanol | 58.0 g | FC=1C=C(C=CC1)C1(CC(CCC1)C)O | C13H17FO
